US08748624B2
STEP C: 3-(5-(5-chloro-2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.21 mL, 0.64 mmol) was added to a THF (1 mL) and MeOH (0.5 mL) solution of ethyl 3-(5-(5-chloro-2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate (119 mg, 0.21 mmol) and the homogeneous mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off and dried in vacuo to yield the title compound.

reactant | NaOH | 0.64 mmol, 0.21 mL | [OH-].[Na+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(5-chloro-2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate | 0.21 mmol, 119 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C30H25Cl2N3O4
solvent | MeOH | 0.5 mL | CO | CH4O
product | 3-(5-(5-chloro-2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoic acid | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C28H21Cl2N3O4
